US07759030B2
5-(N-Acetylamino)indane (26.28 g (0.15 mol)), 43.61 g (0.20 mol) of iodotoluene, 25.88 g (0.188 mol) of anhydrous potassium carbonate and 2.38 g (0.038 mol) of copper powder were mixed, and heated up to 200° C. while introducing nitrogen gas, followed by stirring for 6 hours. After the termination of the reaction, cooling was conducted, and 22.3 g of potassium hydroxide dissolved in 20 ml of water and 50 ml of isoamyl alcohol were added to perform hydrolysis at 130° C. for 2 hours. After the termination of the hydrolysis, 250 ml of water was added, and isoamyl alcohol was removed by azeotropic distillation. Then, 200 ml of toluene was added to dissolve the reaction product. After filtration, dehydration was performed with magnesium sulfate. After magnesium sulfate was removed by filtration, the filtrate was concentrated, and purified by column chromatography (carrier: silica gel, eluent: toluene:hexane 1:4) to obtain 32.3 g of indane-5-yl-p-tolylamine.

reactant | 5-(N-Acetylamino)indane | 0.15 mol, 26.28 g | C(C)(=O)NC=1C=C2CCCC2=CC1 | C11H13NO
reactant | iodotoluene | 0.20 mol, 43.61 g | IC1=C(C=CC=C1)C | C7H7I
reactant | potassium carbonate | 0.188 mol, 25.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | 22.3 g | [OH-].[K+]
solvent | water | 20 ml | O | H2O
catalyst | copper | 0.038 mol, 2.38 g | [Cu] | Cu
solvent | water | 250 ml | O | H2O
solvent | isoamyl alcohol | 50 ml | C(CC(C)C)O | C5H12O
product | indane-5-yl-p-tolylamine | 32.3 g | C1CCC2=CC(=CC=C12)NC1=CC=C(C=C1)C | C16H17N
